US06080743
a) 7-Bromo-5-hydroxymethyl-2,3-dimethoxy-quinoxaline
11.5 g (31.85 mmol) of 7-bromo-5-bromomethyl-2,3-dimethoxy-quinoxaline are suspended at 20° C. in 100 ml of dioxane. 16.4 g (164 mmol) of calcium carbonate in 100 ml of water are then added and the mixture is heated at reflux for 24 hours. The dioxane is concentrated by evaporation and 300 ml of dichloromethane are added. The salt is filtered off, the organic phase is washed with brine and concentrated by evaporation and the residue is chromatographed on silica gel with ethyl acetate and hexane (1:1).

reactant | 7-bromo-5-bromomethyl-2,3-dimethoxy-quinoxaline | 31.85 mmol, 11.5 g | BrC1=CC(=C2N=C(C(=NC2=C1)OC)OC)CBr | C11H10Br2N2O2
reactant | calcium carbonate | 164 mmol, 16.4 g | C([O-])([O-])=O.[Ca+2]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 100 ml | O | H2O
product | 7-Bromo-5-hydroxymethyl-2,3-dimethoxy-quinoxaline | BrC1=CC(=C2N=C(C(=NC2=C1)OC)OC)CO | C11H11BrN2O3
